US04239887
4-Chloro-7-methylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine
To a cold solution of 4.2 g. (0.022 M) of 3-amino-2-cyano-6-methylthieno[2,3-b]pyridine in 30 ml. conc. HCl and 30 ml. HOAC was added a solution of 1.9 g. (0.028 M) of NaNO2 in 20 ml. of H2O. After completion of addition, the ice bath was removed and stirring continued for 2 more hours. The mixture was then poured on ice water and filtered. The crude product was recrystallized from methanol, m.p. 188°-189° C.

reactant | 3-amino-2-cyano-6-methylthieno[2,3-b]pyridine | 0.022 M | NC1=C(SC2=NC(=CC=C21)C)C#N | C9H7N3S
reactant | HCl | Cl | ClH
reactant | NaNO2 | 0.028 M | N(=O)[O-].[Na+]
solvent | H2O | O | H2O
product | 4-Chloro-7-methylpyrido[3',2':4,5]thieno[3,2-d]-1,2,3-triazine | ClC=1C2=C(N=NN1)C1=C(S2)N=C(C=C1)C | C9H5ClN4S
